US05380742
12.1 1-Ethyl-5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole
3.75 ml of a 1.6M solution of n-butyllithium in hexane are added, at -70° C., to a solution of 1.4 g of 5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole in 15 ml of dry tetrahydrofuran. 0.51 ml of iodoethane is then added and the mixture is stirred at room temperature for 2 h and the solution is then poured into 100 ml of ice-cold water. The solid formed is filtered off, washed with hexane and recrystallized from ethanol. 0.16 g of product is obtained. Melting point: 117°-120° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 1.4 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1CC=2C(C1)=CSC2 | C13H13NO2S2
reactant | iodoethane | 0.51 ml | ICC | C2H5I
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-Ethyl-5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 0.16 g | C(C)C=1SC=C2C1CN(C2)S(=O)(=O)C2=CC=C(C)C=C2 | C15H17NO2S2
